US07732435B2
3-(4-Chloro-phenyl)-7-fluoro-2-isopropyl-chromen-4-one
To a solution of 2-(4-chlorophenyl)-1-(4-fluoro-2-hydroxy-phenyl)-4-methyl-pentane-1,3-dione (16.4 g, 49 mmol) in glacial acetic acid (150 ml) is added concentrated HCl (20 ml). The reaction mixture is stirred at 140° C. for 2 h, allowed to cool and then poured into a mixture of 880 ml of ammonium hydroxide and ice (200 ml). Ethyl acetate (300 ml) is added with vigorous stirring. The phases are separated, and the aqueous phase is washed with ethyl acetate (200 ml). The organic phases are combined, washed with water and brine and dried (MgSO4). The solvent is removed in vacuo, and the crude product is purified by flash chromatography on silica gel using iso-hexane:ethyl acetate (25:1 to 15:1) as the eluent. The resulting oil is crystallised from iso-hexane (150 ml) to give the title compound.

reactant | 2-(4-chlorophenyl)-1-(4-fluoro-2-hydroxy-phenyl)-4-methyl-pentane-1,3-dione | 49 mmol, 16.4 g | ClC1=CC=C(C=C1)C(C(=O)C1=C(C=C(C=C1)F)O)C(C(C)C)=O | C18H16ClFO3
reactant | HCl | 20 ml | Cl | ClH
reactant | ammonium hydroxide | 880 ml | [OH-].[NH4+]
reactant | Ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | 150 ml | C(C)(=O)O | C2H4O2
product | 3-(4-Chloro-phenyl)-7-fluoro-2-isopropyl-chromen-4-one | ClC1=CC=C(C=C1)C1=C(OC2=CC(=CC=C2C1=O)F)C(C)C | C18H14ClFO2
